US09328096B2
Ethyl 5-(2-chloro-5-(6-(difluoromethoxy)pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate
To a degassed solution of ethyl 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate (Preparation 5, 229 mg, 0.44 mmol) in dioxane (4 mL) and water (0.5 mL) heated to 50° C. was added Na2CO3 (228 mg, 1.32 mmol), Cataxium A (16 mg, 0.044 mmol), a solution of 2-bromo-6-(difluoromethoxy)pyridine (Preparation 58, 100 mg, 0.44 mmol) in dioxane (1 mL) and Pd(OAc)2 (5 mg, 0.022 mmol). The reaction was heated at 80° C. for 3 hours. Further Cataxium A (16 mg, 0.044 mmol) and Pd(OAc)2 (5 mg, 0.022 mmol) were added and the reaction continued at 90° C. for 3 hours. The reaction was cooled and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 10-40% EtOAc in heptanes to afford the title compound (146 mg, 60%).

reactant | ethyl 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 0.44 mmol, 229 mg | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H27BClN3O5
reactant | Na2CO3 | 1.32 mmol, 228 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromo-6-(difluoromethoxy)pyridine | 0.44 mmol, 100 mg | BrC1=NC(=CC=C1)OC(F)F | C6H4BrF2NO
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.022 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.022 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Ethyl 5-(2-chloro-5-(6-(difluoromethoxy)pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 146 mg, 60% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C=C1)C1=NC(=CC=C1)OC(F)F | C25H19ClF2N4O4
